US07807720B2
(S)-2-(4-Fluoro-3,5-dimethyl-benzyl)-4-{[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-N-hydroxy-butyramide (Compound 168172
To a solution of (R)-4-benzyl-3-((S)-2-(4-fluoro-3,5-dimethyl-benzyl)-4-{[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-butyryl)-oxazolidin-2-one (0.033 g, 0.0601 mmol) in 2.5 mL of THF/MeOH/50% NH2OH—H2O (2:2:1), was added KCN (0.001 g, 0.006 mmol). After stirring at room temperature overnight, the reaction mixture was acidified with concentrated HCl to pH=2 and filtered. The product was isolated by RP-HPLC eluting with 20-100% acetonitrile (0.025% TFA)/water (0.025% TFA) to give the title compound as an off-white solid (0.016 g, 66% yield). LC-MS: tR=5.5 min, m/z 405 (M+H)+.

reactant | (R)-4-benzyl-3-((S)-2-(4-fluoro-3,5-dimethyl-benzyl)-4-{[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-butyryl)-oxazolidin-2-one | 0.0601 mmol, 0.033 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](CCN(C)CCCC1=CC=C(C=C1)F)CC1=CC(=C(C(=C1)C)F)C)=O | C33H38F2N2O3
reactant | KCN | 0.006 mmol, 0.001 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | THF MeOH | 2.5 mL | C1CCOC1.CO
product | (S)-2-(4-Fluoro-3,5-dimethyl-benzyl)-4-{[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-N-hydroxy-butyramide | 0.016 g, 66% yield | FC1=C(C=C(C[C@H](C(=O)NO)CCN(C)CCCC2=CC=C(C=C2)F)C=C1C)C | C23H30F2N2O2
